Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[O:1]=[C:2]1[C:6]([H:11])([H:12])[C@:5]2([H:10])[O:4][C:3]([H:8])([H:9])[C@:7]12[H:13]>>[O:1]=[C:2]1[C:3]([H:8])([H:9])[O:4][C@@:5]2([H:10])[C:6]([H:11])([H:12])[C@@:7]12[H:13],68.08336604592999
[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3]/[C:6]1=[C:7](\[C:4](=[O:5])[H:12])[H:13])([H:8])([H:9])[H:10],58.775462693820295
[C:1](=[C:2]1[O:3][N:6]([H:12])[C:5]([H:7])([H:11])[N:4]1[H:10])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],33.118007205225595
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])/[C:6]1=[N:7]\[C:4](=[O:5])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],46.6129728801406
[C:1](=[C:2]([C:3]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[N:4](=[C:5](/[O:6][H:8])[H:15])\[H:14]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([N:4]([C:5](=[O:6])[H:15])[H:14])[H:10])([H:7])([H:8])[H:9],21.4432715054239
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N+:1]([C-:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])[C:6]#[N:7])([H:8])([H:9])[H:10],66.7764394780828
[O:1]=[C:2]([C@@:3]1([H:7])[C:4]([H:8])([H:9])[N:5]1[H:10])[H:6]>>[O-:1][C:2]([C+:3]1[C:4]([H:8])([H:9])[N:5]1[H:10])([H:6])[H:7],68.2391372137058
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O:1]=[C:5]([C:4]1=[C:2]([C:6]#[N:7])[C:3]1([H:8])[H:9])[H:10],78.8991467064705
[C@:1]1([C:6]#[N:7])([H:8])[C:2]([H:11])([H:12])[C:3]1([C:4]([H:13])([H:14])[H:15])[C:5]([H:16])([H:17])[H:18].[H:9][H:10]>>[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],80.41526600584062
[C:1](=[C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])[H:11])([H:8])[H:10].[H:9][H:12]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],83.2110599495621
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O+:3][C-:4]([H:9])[H:10])[H:8])([C:5](=[O:6])[H:11])[H:7],46.716827407928896
[C:1]([C:2]([C:3]([O:4][H:13])([H:11])[H:12])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5]([O:6][H:16])([H:14])[H:15])([H:10])[H:12])([H:7])([H:8])[H:9].[C:3]([O:4][H:13])[H:11],71.29122718575191
[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:3](/[N:4]=[C:5](\[O:6][H:7])[H:13])([H:10])([H:11])[H:12].[O:1]=[C:2]([H:8])[H:9],93.0379035058471
[C:3](#[N:4])[N+:6]#[C-:5].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]#[N:4])[C:5]#[N:6],67.68626832394112
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4]([H:11])([H:12])[H:13])[C:6]([C:5][H:14])([H:15])[H:16],77.8430328624044
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([O:7][H:14])([H:17])[H:18])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:19],46.5165529528141
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6](=[O:7])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:6](=[O:7])[H:17])([H:8])([H:9])[H:10].[C:3](=[C:4]([C:5]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12],47.8644474413849
[C:4](=[O:5])([C:6]#[N:7])[H:9].[N:1](=[C:2]=[O:3])[H:8]>>[N:1](=[C:2](\[O:3][C:4](=[O:5])[H:9])[C:6]#[N:7])\[H:8],50.10626777983107
[C:1]([C@:2]1([H:10])[C:3]([H:11])([H:13])[C@:5]([O:6][H:12])([H:14])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([O:4][C:5](=[O:6])[H:14])[H:10])([H:7])([H:8])[H:9],58.31485772377077
[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5](=[O:6])[H:12])([H:10])[H:11],72.7402768903558
[C:1](=[C:2]1[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([O:7][H:9])[C:6]1([H:16])[H:17])([H:8])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]1([H:16])[H:17])[O:7]2)([H:8])([H:9])[H:10],85.7050590699007
[C:1]([O:2][C:3]([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9].[C:4](=[O:5])=[C:6]([H:13])[H:14],76.8624120388004
[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1]([C:2](=[O:3])[H:8])([C:5]1=[C:6]([H:11])[C:4]1([H:9])[H:10])[H:7],37.3022692429251
[C:1]1([H:8])([H:10])[C:2]([H:11])([H:12])[O:3][C@:4]1([O:5][H:9])[C:6]([O:7][H:15])([H:13])[H:14]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],55.80179980640842
